US06114325
[2-[[N-[3-[Bis(2-hydroxyethyl)amino]propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 33)
4N Hydrochloric acid--ethyl acetate solution (0.20 ml) was added to a solution of [2-[[N-[3-[bis(2-hydroxyethyl)amino]propyl]carbamoyloxy]methyl]phenyl]-N-octadecyl formamide (0.47 g) in a mixture of ethyl acetate (5 ml) and chloroform (2 ml) at room temperature. After being stirred for 10 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol-chloroform mixed solvent, thereby yielding 0.44 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-[3-[bis(2-hydroxyethyl)amino]propyl]carbamoyloxy]methyl]phenyl]-N-octadecyl formamide | 0.47 g | OCCN(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)CCO | C34H61N3O5
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 0.20 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-[3-[Bis(2-hydroxyethyl)amino]propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 0.44 g | Cl.OCCN(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)CCO | InChI=1S/C34H61N3O5.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19-25-37(31-40)33-22-18-17-21-32(33)30-42-34(41)35-23-20-24-36(26-28-38)27-29-39;/h17-18,21-22,31,38-39H,2-16,19-20,23-30H2,1H3,(H,35,41);1H
